US08541588B2
4-(Difluoromethoxy)-2-iodophenol
To a suspension of N-iodosuccinimide (1.12 g, 0.005 mol) in acetic acid (15.0 mL) was added 4-(difluoromethoxy)phenol (0.8 g, 0.005 mol) under nitrogen. Sulfuric acid (0.147 g, 0.0015 mol) was added and the resulting dark brown suspension was stirred at room temperature for 4 hours before the addition of N-iodosuccinimide (0.6 g, 0.0025 mol). The mixture was stirred for 16 hours before diluting with citric acid (1.0 M aqueous solution, 20.0 mL) and water (20.0 mL). The aqueous layer was extracted with dichloromethane (2×30.0 mL). Combined organic layers were dried over sodium sulphate, filtered and concentrated in vacuo to afford a dark purple oil. This was concentrated in vacuo from toluene (3×20.0 mL) to afford a brown oil. The aqueous layer was concentrated in vacuo. Both organic and aqueous crude residues were purified by flash column chromatography on the ISCO™ (40 g SiO2) eluting with ethyl acetate:heptane (gradient 0:1 to 1:1, by volume) to afford the title compound as a yellow oil, 0.604 g, 42% yield.

reactant | N-iodosuccinimide | 0.005 mol, 1.12 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 4-(difluoromethoxy)phenol | 0.005 mol, 0.8 g | FC(OC1=CC=C(C=C1)O)F | C7H6F2O2
reactant | Sulfuric acid | 0.0015 mol, 0.147 g | S(O)(O)(=O)=O | H2O4S
reactant | N-iodosuccinimide | 0.0025 mol, 0.6 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 15.0 mL | C(C)(=O)O | C2H4O2
solvent | citric acid | 1.0 M, 20.0 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 20.0 mL | O | H2O
product | 4-(Difluoromethoxy)-2-iodophenol | 42% yield | FC(OC1=CC(=C(C=C1)O)I)F | C7H5F2IO2
